US07705042B2
f) 2-[4-(3′Amino-4-methyl-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-6′-yl)-piperazin-1-morpholin-4-yl-ethanone
A solution of 2-[4-(4-2-ethyl-3′-nitro-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-6′-yl)-piperazin-1-yl]-1-morpholin-4-yl-ethanone (as prepared in the previous step, 0.11 g, 0.25 mmol) in 2:1 EtOH:water (15 mL) was treated with NH4Cl (0.14 g, 2.5 mmol) and was heated to 100° C. Iron powder (70.4 mg, 1.26 mmol) was added and the reaction stirred at 100° C. for 2 h. The reaction was neutralized with saturated aqueous NaHCO3 and extracted with CH2Cl2. The combined organic layers were dried over MgSO4 and concentrated in vacuo to afford the title compound (0.10 g, 98%), which was used immediately in the next reaction.

reactant | 2-[4-(4-2-ethyl-3′-nitro-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-6′-yl)-piperazin-1-yl]-1-morpholin-4-yl-ethanone | CCC1CCN(CC1)C1=NC(=CC=C1[N+](=O)[O-])N1CCN(CC1)CC(=O)N1CCOCC1 | C22H34N6O4
reactant | EtOH | CCO | C2H6O
reactant | NH4Cl | 2.5 mmol, 0.14 g | [NH4+].[Cl-]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
catalyst | Iron | 1.26 mmol, 70.4 mg | [Fe] | Fe
solvent | water | 15 mL | O | H2O
product | 4-(3′Amino-4-methyl-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-6′-yl)-piperazin 1-morpholin-4-yl-ethanone | 0.10 g, 98% | NC=1C(=NC(=CC1)N1CCNCC1)N1CCC(CC1)C.N1(CCOCC1)C(C)=O | InChI=1S/C15H25N5.C6H11NO2/c1-12-4-8-20(9-5-12)15-13(16)2-3-14(18-15)19-10-6-17-7-11-19;1-6(8)7-2-4-9-5-3-7/h2-3,12,17H,4-11,16H2,1H3;2-5H2,1H3
